US08053457B2
(4-Pyridin-3-yl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 1-Pyridin-3-yl-piperazine and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a white solid; ES-MS: M+=203.2: AtRet=1.10.

reactant | 1-Pyridin-3-yl-piperazine | N1=CC(=CC=C1)N1CCNCC1 | C9H13N3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Pyridin-3-yl-piperazin-1-yl)-acetonitrile | N1=CC(=CC=C1)N1CCN(CC1)CC#N | C11H14N4
